US06107329
5-Chloro-1H-indole-2-carboxylic acid (1-benzyl-2-morpholin-4-yl-2-oxo-ethyl)-amide
Morpholine (0.33 mmol) and 2-[(5-chloro-1H-indole-2-carbonyl)-amino]-3-phenyl-propionic acid (0.30 mmol) were coupled according to Procedure A (0-25° C. reaction temperature, 48 hour reaction time). The crude product was chromatographed on silica gel eluted with 1:1 ethyl acetate/hexanes, the desired fractions concentrated, the residue dissolved in chloroform and methanol and the resulting solution stirred 18 hours with approx. 128 mg dimethylaminopyridine-polystyrene resin (Fluka Chemical Co.). The solution was filtered, concentrated and the residue triturated with ether: Yield, 51%; HPLC (60/40) 5.92 min (98%);

reactant | Morpholine | 0.33 mmol | N1CCOCC1 | C4H9NO
reactant | 2-[(5-chloro-1H-indole-2-carbonyl)-amino]-3-phenyl-propionic acid | 0.30 mmol | ClC=1C=C2C=C(NC2=CC1)C(=O)NC(C(=O)O)CC1=CC=CC=C1 | C18H15ClN2O3
product | 5-Chloro-1H-indole-2-carboxylic acid (1-benzyl-2-morpholin-4-yl-2-oxo-ethyl)-amide | C(C1=CC=CC=C1)C(C(=O)N1CCOCC1)NC(=O)C=1NC2=CC=C(C=C2C1)Cl | C22H22ClN3O3
